* g:\Shared drives\IAMSYbElectronics\Projects\LPFilters_Elliptical_Mike\LTSpice Files\LPFilter_50kHz_Elliptical\LPFilter_50kHz_Elliptical.asc
* Generated by LTspice 24.1.10 for Windows.
Vin N001 0 AC 1 Rser=50
C1 N001 0 67.37n
C2 N002 N001 7.062n
L1 N002 N001 199.7µ
C3 N002 0 109.0n
C4 Vout1 N002 19.89n
L2 Vout1 N002 165.3µ
C5 Vout1 0 57.09n
RL Vout1 0 50
Vin1 N003 0 AC 1 Rser=50
C6 N003 0 68n
C7 N004 N003 6.8n
L3 N004 N003 200µ Rser=2.6
C8 N004 0 100n
C9 Vout2 N004 20n
L4 Vout2 N004 180µ Rser=0.23
C10 Vout2 0 56n
RL1 Vout2 0 50
* .ac dec 100 20000 200000
.ac dec 100 20000 200000
* Ideal Circuit
* Actual Parts from JLCPCB
.backanno
.end
